US04963543
A mixture of 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(carbamoylmethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.42 g), 20% palladium hydroxide on carbon (0.4 g), 0.05M phosphate buffer (pH 6.3, 20 ml), and tetrahydrofuran (20 ml) was stirred at ambient temperature for 4 hours under atmospheric pressure of hydrogen. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure to remove the organic solvent. The resulting residue was washed twice with ethyl acetate (20 ml) and the aqueous layer was concentrated under reduced pressure to remove the organic solvent. The residue was chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries) (20 ml) eluting in turn with water (100 ml) and 5% aqueous acetone (100 ml). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-3-[(2S,4S)-2-(carbamoylmethyl)thiomethylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.16 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(carbamoylmethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.42 g | C(N)(=O)CSC[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H35N5O11S2
reactant | phosphate | 0.05M, 20 ml, pH 6.3 | P(=O)([O-])([O-])[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.4 g | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4R,5S,6S)-3-[(2S,4S)-2-(carbamoylmethyl)thiomethylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.16 g | C(N)(=O)CSC[C@H]1NC[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)O | C17H25N3O5S2
